US06388084B1
To a suspension of 4-(1,4-dimethyl-2-oxo-3-pyridinyl)-L-phenylalanine methyl ester hydrochloride salt (34 mg, 0.1 mmol) and 2,6-dichlorobenzoyl chloride (25 mg, 0.12 mmol) in dichloromethane (2 mL) was added DIEA (174 μL, 1.0 mmol) at room temperature. After 5 min, a clear solution was obtained which was stirred for 72 h. Then, the mixture was concentrated, the residue was dissolved in ethyl acetate (25 mL), was washed with 0.5 N HCl (25 mL), saturated NaHCO3 solution (25 mL), brine solution (15 mL) and was dried over anhydrous magnesium sulfate. Filtration of the drying agent and concentration gave crude product, which was purified by silica gel chromatography using a Biotage (40s) column, to afford 23 mg (49% yield) of N-[(2,6-dichlorophenyl)carbonyl]-4-(1,4-dimethyl-2-oxo-3-pyridinyl)-L-phenylalanine methyl ester as an amorphous white solid. ES-HRMS m/e calcd for C24H22Cl2N2O4 (M+Na) 495.0850, found 495.0859.

reactant | 4-(1,4-dimethyl-2-oxo-3-pyridinyl)-L-phenylalanine methyl ester hydrochloride salt | 0.1 mmol, 34 mg | Cl.COC([C@@H](N)CC1=CC=C(C=C1)C=1C(N(C=CC1C)C)=O)=O
reactant | 2,6-dichlorobenzoyl chloride | 0.12 mmol, 25 mg | ClC1=C(C(=O)Cl)C(=CC=C1)Cl | C7H3Cl3O
reactant | DIEA | 1.0 mmol, 174 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | N-[(2,6-dichlorophenyl)carbonyl]-4-(1,4-dimethyl-2-oxo-3-pyridinyl)-L-phenylalanine methyl ester | 23 mg, 49% yield | COC([C@@H](NC(=O)C1=C(C=CC=C1Cl)Cl)CC1=CC=C(C=C1)C=1C(N(C=CC1C)C)=O)=O | C24H22Cl2N2O4
